US08377923B2
Potassium carbonate (1.2 g) and iodomethane (0.7 ml) were added to a solution of 2-fluoro-5-methylterephthalic acid (755 mg) in DMF (5 ml), followed by stirring at room temperature overnight. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was further washed with water and then saturated brine, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 90:10), and the solvent was evaporated under reduced pressure to obtain, as a colorless solid, dimethyl 2-fluoro-5-methylterephthalate (708 mg).

reactant | Potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.7 ml | IC | CH3I
reactant | 2-fluoro-5-methylterephthalic acid | 755 mg | FC1=C(C(=O)O)C=C(C(=C1)C(=O)O)C | C9H7FO4
reactant | Water | O | H2O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | dimethyl 2-fluoro-5-methylterephthalate | 708 mg | FC1=C(C(=O)OC)C=C(C(=C1)C(=O)OC)C | C11H11FO4
